US09062015B2
FS1024 Acetic acid 4-{4-[6-(3,3-dimethyl indan-5-yl)pyridin-2-yl]piperazin-1-yl}butyl ester
The preparation is carried out analogously to FS401 starting from 142 mg (0.46 mmol) of 1-[6-(3,3-dimethylindan-5-yl)pyridin-2-yl]piperazine and 90 μl of bromobutyl acetate using 2 equiv. of potassium carbonate.

reactant | 1-[6-(3,3-dimethylindan-5-yl)pyridin-2-yl]piperazine | 0.46 mmol, 142 mg | CC1(CCC2=CC=C(C=C12)C1=CC=CC(=N1)N1CCNCC1)C | C20H25N3
reactant | bromobutyl acetate | 90 μl, 2 equiv. | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Acetic acid 4-{4-[6-(3,3-dimethyl indan-5-yl)pyridin-2-yl]piperazin-1-yl}butyl ester | CC1(CCC2=CC=C(C=C12)C1=CC=CC(=N1)N1CCN(CC1)CCCCOC(C)=O)C | C26H35N3O2
